US07141598B2
Production of 7-(5-methoxybenzo[b]thiophen-2-yl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-ol
A solution of 5-methoxybenzo[b]thiophene (0.33 g) in THF (8 ml) was cooled to −78° C., and an n-butyl lithium hexane solution (1.6 M; 1.4 ml) was added dropwise to this solution. The mixture was stirred for 1 h at the same temperature, and a solution of 5,6-dihydro-7H-pyrrolo[1,2-c]imidazol-7-one (0.18 g) in THF (3 ml) was added to this solution. The reaction mixture was stirred for 1 h at the same temperature, and saturated brine was added. The mixture was warmed to room temperature and the organic layer was separated. The organic layer was diluted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was suspended in ethyl acetate and filtrated to give the title compound (0.24 g) as pale brown crystals. The crystals were recrystallized from THF to give the title compound (0.13 g) as colorless crystals.

reactant | 5-methoxybenzo[b]thiophene | 0.33 g | COC1=CC2=C(SC=C2)C=C1 | C9H8OS
reactant | n-butyl lithium hexane | 1.6 M, 1.4 ml | CCCCCC.C(CCC)[Li]
reactant | 5,6-dihydro-7H-pyrrolo[1,2-c]imidazol-7-one | 0.18 g | C1=C2N(C=N1)CCC2=O | C6H6N2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 7-(5-methoxybenzo[b]thiophen-2-yl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-ol | 0.24 g | COC1=CC2=C(SC(=C2)C2(CCN3C=NC=C32)O)C=C1 | C15H14N2O2S
